US07645771B2
To a stirred solution of 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]-oct-3-yl}-1H-benzimidazole (214 mg, 0.5 mmol) in methylene chloride was added 1-(1H-imidazol-1-ylcarbonothioyl)-1H-imidazole (89 mg, 0.5 mmol). The resulting mixture was stirred overnight. After evaporation of the solvents, the crude product was purified by flash chromatography, eluting with a gradient of 0-5% methanol in ethyl acetate, to afford 1-((1R,5S)-8-{2-[1-(1H-imidazol-1-ylcarbonothioyl)-4-phenylpiperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole as a foam (200 mg, 74%). 1H NMR (400 MHz, CDCl3) δ 7.83 (s, 1H), 7.65 (d, J=7.1 Hz, 1H), 7.42-7.39 (m, 2H), 7.31-7.28 (m, 4H), 7.19-7.10 (m, 3H), 7.07 (s, 1H), 4.62-4.56 (m, 1H), 3.53 (br, 1H), 3.24-3.22 (m, 2H), 2.56 (s, 3H), 2.40-2.32 (m, 4H), 1.99-1.81 (m, 10, H), 1.62 (d, J=7.9 Hz, 2H). HRMS m/z (M+H)+ calcd: 539.2957, obsd: 539.2958.

reactant | 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]-oct-3-yl}-1H-benzimidazole | 0.5 mmol, 214 mg | CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCNCC3)C3=CC=CC=C3)C=CC=C2 | C28H36N4
reactant | 1-(1H-imidazol-1-ylcarbonothioyl)-1H-imidazole | 0.5 mmol, 89 mg | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-((1R,5S)-8-{2-[1-(1H-imidazol-1-ylcarbonothioyl)-4-phenylpiperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole | 200 mg, 74% | N1(C=NC=C1)C(=S)N1CCC(CC1)(C1=CC=CC=C1)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C32H38N6S
